US05891909
c) 3-[3-(3-Bromophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
To a cooled (0° C.), stirred solution of 914 mg (2.28 mmol) 3-[3-(3-bromophenylsulfonyloxy)-5-methylphenoxy]propanol, as prepared in the preceding step, 795 μL of N,N-diisopropylethylamine and 485 μL of anhydrous dimethyl sulfoxide in 15 mL of anhydrous dichloromethane was added 732 mg (4.60 mmol) of sulfur trioxide pyridine complex. The mixture was warmed to ambient temperature over 30 min and stirred for 3 h. The mixture was poured into 15 mL of dichloromethane and washed with 5% (w/v) aqueous citric acid (2×25 mL). Each wash was extracted with 5 mL of dichloromethane and the combined extracts were washed with brine (25 mL) and dried over Na2SO4 to give, after concentration, a white semisolid. This material was chromatographed on 80 g of silica gel with 3% ethyl acetate-dichloromethane to afford 620 mg (68%) of the title compound as a colorless oil: 1H-NMR (300 MHz; CDCl3) δ 9.84 (t, 1H, J=1.4 Hz), 8.01 (t, 1H, J=1.8 Hz), 7.79 (m, 2H), 7.43 (t, 1H, J=8.0 Hz), 6.64 (m, 1H), 6.44 (m, 1H), 6.37 (t, 1H, J=2.0 Hz), 4.20 (t, 2H, J=6.1 Hz), 2.87 (td, 2H, J=6.1, 1.4 Hz) and 2.26 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C16H15BrO5S: 423.0 (M+2+Na, 81Br ion). Found: 423.1.

reactant | 3-[3-(3-bromophenylsulfonyloxy)-5-methylphenoxy]propanol | 2.28 mmol, 914 mg | BrC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C16H17BrO5S
reactant | N,N-diisopropylethylamine | 795 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 485 μL | CS(=O)C | C2H6OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[3-(3-Bromophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 620 mg, 68% | BrC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C16H15BrO5S
